US07560596B2
Synthesis of 2,4,6,2′-tetramethyl-biphenyl (FIG. 2, Entry 6; A. Littke, C. Dai, G. C. Fu J. Am. Chem. Soc. 2000, 122, 4020.)
The general procedure described in Example 3 was used with 2-bromo-mesitylene (0.153 mL, 1.00 mmol), 2-methylphenylboronic acid (203 mg, 1.50 mmol), Pd(OAc)2 (4.5 mg, 0.020 mmol, 2 mol %), sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate (20.0 mg, 0.040 mmol, 4 mol %), K2CO3 (276 mg, 2.00 mmol), water (1.5 mL), 22 h, room temperature. The product was isolated as a colorless oil (197 mg, 94%). 1H NMR (400 MHz, CDCl3) δ: 7.30-7.19 (m, 3H), 7.05-7.00 (m, 1H), 6.92 (s, 2H), 2.30 (2, 3H), 1.99 (s, 3H), 1.89 (s, 6H). 13C NMR (125 MHz, CDCl3) δ: 140.9, 138.2, 136.4, 136.0, 135.9, 130.0, 129.2, 128.1, 127.1, 126.2, 21.4, 20.6, 19.9.

reactant | 2-bromo-mesitylene | 1.00 mmol, 0.153 mL | BrC1=C(C=C(C=C1C)C)C | C9H11Br
reactant | 2-methylphenylboronic acid | 1.50 mmol, 203 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | K2CO3 | 2.00 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(OAc)2 | 0.020 mmol, 4.5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate | 0.040 mmol, 20.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C(=CC=C1OC)S(=O)(=O)[O-])OC)C1CCCCC1.[Na+]
solvent | water | 1.5 mL | O | H2O
product | 2,4,6,2′-tetramethyl-biphenyl | 197 mg, 94% | CC1=C(C(=CC(=C1)C)C)C1=C(C=CC=C1)C | C16H18
